US08193199B2
A solution of (S)-2-(1-(2,8-dichloroquinolin-3-yl)ethyl)isoindoline-1,3-dione (0.2000 g, 0.5388 mmol), 5-(tributylstannyl)thiazole (0.4032 g, 1.078 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.06226 g, 0.05388 mmol) in 1,4-dioxane (4.490 mL, 0.5388 mmol) was stirred at 100° C. After 94 h, the mixture was cooled to room temperature and concentrated under reduced pressure. The residue was purified by column chromatography on a 40 g of Redi-Sep™ column using 0 to 100% gradient of EtOAc in hexane over 14 min and then 100% isocratic of EtOAc for 7 min as eluent to give 2-((S)-1-(8-chloro-2-(thiazol-5-yl)-quinolin-3-yl)ethyl)isoindoline-1,3-dione as a light yellow solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 9.10 (1H, s), 8.83 (1H, s), 8.30 (1H, d, J=0.8 Hz), 8.13 (1H, dd, J=8.2, 1.2 Hz), 7.99 (1H, dd, J=7.6, 1.4 Hz), 7.71-7.82 (4H, m), 7.60-7.69 (1H, m), 6.03 (1H, q, J=7.2 Hz), 1.88 (3H, d, J=7.0 Hz); LC-MS (ESI) m/z 420.1 [M+H]+.

reactant | (S)-2-(1-(2,8-dichloroquinolin-3-yl)ethyl)isoindoline-1,3-dione | 0.5388 mmol, 0.2000 g | ClC1=NC2=C(C=CC=C2C=C1[C@H](C)N1C(C2=CC=CC=C2C1=O)=O)Cl | C19H12Cl2N2O2
reactant | 5-(tributylstannyl)thiazole | 1.078 mmol, 0.4032 g | C(CCC)[Sn](C1=CN=CS1)(CCCC)CCCC
reactant | 1,4-dioxane | 0.5388 mmol, 4.490 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05388 mmol, 0.06226 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-((S)-1-(8-chloro-2-(thiazol-5-yl)-quinolin-3-yl)ethyl)isoindoline-1,3-dione | ClC=1C=CC=C2C=C(C(=NC12)C1=CN=CS1)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C22H14ClN3O2S
